US06699871B2
(3R)-3-[(1,1-Dimethylethoxycarbonyl)amino]-4-[2-fluoro-4-(trifluoromethyl)phenyl]-butanoic Acid
To a solution of 5.5 g (15 mmol) of (2R,5S)-2,5-dihydro-3,6-dimethoxy-2-(2′-fluoro-4′-(trifluoromethyl)benzyl)-5-isopropylpyrazine in 50 mL of a mixture of acetonitrile:dichloromethane (10:1) was added 80 mL of 1N aqueous trifluoroacetic acid. The reaction was stirred for 6 h and the organic solvents were removed in vacuo. Sodium carbonate was added until the solution was basic (>pH 8), and then the reaction was diluted with 100 mL of tetrahydrofuran and 10 g (46 mmol) of di-tert-butyl dicarbonate was added. The resulting slurry was stirred for 16 h, concentrated in vacuo, and extracted with ethyl acetate. The combined organic phase was washed with brine, dried, and concentrated in vacuo. Purification by flash chromatography (silica gel, 20% ethyl acetate in hexanes) afforded 5.1 g of the title compound. 1H NMR (500 MHz, CDCl3) δ 7.38-7.28 (m, 3H), 5.10 (bd, 1H), 4.65-3.98 (m, 1H), 3.76 (s, 3H), 3.32-3.25 (m, 1H), 3.13-3.05 (m, 1H), 1.40 (s, 9H).

reactant | (2R,5S)-2,5-dihydro-3,6-dimethoxy-2-(2′-fluoro-4′-(trifluoromethyl)benzyl)-5-isopropylpyrazine | 15 mmol, 5.5 g | COC=1[C@H](N=C([C@@H](N1)C(C)C)OC)CC1=C(C=C(C=C1)C(F)(F)F)F | C17H20F4N2O2
reactant | acetonitrile dichloromethane | C(C)#N.ClCCl
reactant | trifluoroacetic acid | 1N, 80 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | di-tert-butyl dicarbonate | 46 mmol, 10 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (3R)-3-[(1,1-Dimethylethoxycarbonyl)amino]-4-[2-fluoro-4-(trifluoromethyl)phenyl]-butanoic Acid | 5.1 g | CC(C)(OC(=O)N[C@@H](CC(=O)O)CC1=C(C=C(C=C1)C(F)(F)F)F)C | C16H19F4NO4
